US08808703B2
A solution of (14R,18R)-18-(decylcarbamoyloxy)-13,21-dioxo-14-palmitamido-3,6,9,20-tetraoxa-16-thia-12,22-diazadotriacontylphosphonic acid diethyl ester (1 eq) in DCM (0.1 M) was stirred at 0° C. Trimethylsilyl bromide (10 eq) was added and allowed to warm to room temperature. The reaction was then heated to 32° C. and stirred overnight. The reaction was then diluted with DCM and concentrated with a stream of nitrogen then purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-10% MeOH/DCM with 0.5% AcOH to afford (14R,18R)-18-(decylcarbamoyloxy)-13,21-dioxo-14-palmitamido-3,6,9,20-tetraoxa-16-thia-12,22-diazadotriacontylphosphonic acid as a colorless oil. 1H NMR (DMSO-d6): δ 7.32 (t, 1H), 6.65 (t, 1H), 5.63 (t, 1H), 5.24 (t, 1H), 5.16 (t, 1H), 4.68 (m, 1H), 4.48 (m, 1H), 3.46-3.78 (m, 15H), 3.17 (m, 4H), 2.75-2.95 (m, 4H), 2.15-2.35 (m, 4H), 1.56 (m, 4H), 1.49 (m, 4H), 1.20-1.45 (m, 52H), 0.87 (t, 9H). LRMS [1\4+H] =1039.7.

reactant | (14R,18R)-18-(decylcarbamoyloxy)-13,21-dioxo-14-palmitamido-3,6,9,20-tetraoxa-16-thia-12,22-diazadotriacontylphosphonic acid diethyl ester | 1 eq | C(C)OP(OCC)(=O)CCOCCOCCOCCNC([C@H](CSC[C@@H](COC(NCCCCCCCCCC)=O)OC(NCCCCCCCCCC)=O)NC(CCCCCCCCCCCCCCC)=O)=O | C56H111N4O12PS
reactant | Trimethylsilyl bromide | 10 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | (14R,18R)-18-(decylcarbamoyloxy)-13,21-dioxo-14-palmitamido-3,6,9,20-tetraoxa-16-thia-12,22-diazadotriacontylphosphonic acid | C(CCCCCCCCC)NC(=O)O[C@@H](CSC[C@@H](C(NCCOCCOCCOCCP(O)(O)=O)=O)NC(CCCCCCCCCCCCCCC)=O)COC(NCCCCCCCCCC)=O | C52H103N4O12PS
